US04859684
To a stirred mixture of 5.1 parts of 4-fluoro-N-[4-(1H-imidazol-1-yl-methyl)-2-nitrophenyl]benzenemethanamine and 80 parts of methanol were added 3.6 parts of sodium hydroxide and stirring was continued first for 10 minutes at room temperature and then for 20 hours at reflux temperature. After cooling, the reaction mixture was neutralized with a hydrochloric acid solution 2N. The precipitated product was filtered off, washed successively with water, methylbenzene and 2,2'-oxybispropane and dried, yielding 4.2 parts (91%) of 2-(4-fluorophenyl)-6-(1H-imidazol-1-ylmethyl)-1H-benzimidazol-1-ol; mp. 82° C. (compound 210).

reactant | 4-fluoro-N-[4-(1H-imidazol-1-yl-methyl)-2-nitrophenyl]benzenemethanamine | FC1=CC=C(C=C1)CNC1=C(C=C(C=C1)CN1C=NC=C1)[N+](=O)[O-] | C17H15FN4O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-(4-fluorophenyl)-6-(1H-imidazol-1-ylmethyl)-1H-benzimidazol-1-ol | 91% | FC1=CC=C(C=C1)C1=NC2=C(N1O)C=C(C=C2)CN2C=NC=C2 | C17H13FN4O
